US08431563B2
A 250 ml, round-bottomed flask was charged with 1-(4-bromophenyl)-4-(phenylsulfonyl)piperazine (0.50 g, 1.31 mmol) and 20 mL of THF. After cooling to −78° C., n-BuLi (0.603 mL, 2.5 M in hexanes, 1.51 mmol) was slowly added. The mixture was stirred at −78° C. for 30 min, then 1,1,1-trifluoro-2-propanone (0.441 g, 3.93 mmol, Sigma-Aldrich, St. Louis, Mo.) was added. The reaction was stirred at −78° C. for 1 h, and then quenched with saturated aqueous NH4Cl (15 mL). The organics were extracted with EtOAc (2×50 mL), dried (MgSO4), and concentrated to give an oil. Purification via column chromatography (40 g of silica, 0 to 40% EtOAc in hexanes) produced 1,1,1-trifluoro-2-(4-(4-(phenylsulfonyl)-1-piperazinyl)phenyl)-2-propanol (0.215 g) as a mixture of two enantiomers.

reactant | 1-(4-bromophenyl)-4-(phenylsulfonyl)piperazine | 1.31 mmol, 0.50 g | BrC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C1=CC=CC=C1 | C16H17BrN2O2S
reactant | n-BuLi | 1.51 mmol, 2.5 M, 0.603 mL | [Li]CCCC
reactant | 1,1,1-trifluoro-2-propanone | 3.93 mmol, 0.441 g | FC(C(C)=O)(F)F | C3H3F3O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1,1,1-trifluoro-2-(4-(4-(phenylsulfonyl)-1-piperazinyl)phenyl)-2-propanol | 0.215 g | FC(C(C)(O)C1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C1=CC=CC=C1)(F)F | C19H21F3N2O3S
